US04997840
Benzoic acid (42.7 g) and triethylamine (64.8 ml) were dissolved in dichloromethane (250 ml) at 0° and this solution was added to the dichloromethane solution of 2'-(2-chloroacetyl)-5'-fluoro-N-methylformanilide over a period of hour whilst maintaining the temperature below 5° with ice/water bath cooling. After stirring for 1 hour at 5°, the mixture was heated under reflux under nitrogen for 16 hours. Further triethylamine (16 ml) was added and the mixture heated under reflux for a further 16 hours. The mixture was allowed to cool to ambient temperature, washed with water (2×250 ml) and dried over magnesium sulphate. Evaporation of the solvent gave the novel compound 2-[4-fluoro-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate, m.p. 93°-95°.

reactant | Benzoic acid | 42.7 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 64.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2'-(2-chloroacetyl)-5'-fluoro-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=C(C=C1)F | C10H9ClFNO2
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-[4-fluoro-2-(N-methylformamido)phenyl]-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=C(C=C1)F)N(C=O)C | C17H14FNO4
